US05739166
Under nitrogen, 1.2 g (1.0 mmol) of Pd(PPh3)4 was added to a stirred solution of 9.9 g (42 mmol) of 1,2-dibromobenzene (Aldrich) and 3.0 g (21 mmol) of 4-fluorophenylboronic acid in 42 mL of toluene, 42 mL of ethanol and 42 mL of 2M Na2CO3. After vigorous stirring at reflux for 3 hours, the solvent was removed in vacuo. The residue was dissolved in ethyl acetate. The resulting solution was washed with water and dried over MgSO4. Purification by silica gel chromatography (Waters Prep-500A) with hexane gave 4.35 g (81%) of 1-bromo-2-(4-fluorophenyl)benzene as a colorless oil: NMR (CDCl3) δ 7.07-7.26 (m, 3H), 7.27-7.44 (m, 4H), 7.67(d, J=8 Hz, 1H).

reactant | 1,2-dibromobenzene | 42 mmol, 9.9 g | BrC1=C(C=CC=C1)Br | C6H4Br2
reactant | 4-fluorophenylboronic acid | 21 mmol, 3.0 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
solvent | toluene | 42 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 42 mL | C(C)O | C2H6O
solvent | Na2CO3 | 2M, 42 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(PPh3)4 | 1.0 mmol, 1.2 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-bromo-2-(4-fluorophenyl)benzene | 4.35 g, 81% | BrC1=C(C=CC=C1)C1=CC=C(C=C1)F | C12H8BrF
